### PR TITLE
Add the first 64 files from AutoOeis to formal-conjectures

### PR DESCRIPTION
**Pull request by codrut3**
Processes several sequences from AutoOeis (auto-formalisations of conjectures from the [OEIS](https://oeis.org/)) to match the formal-conjectures style.

I discarded sequences that had no conjectures, or the conjecture was impossible to formalise (e.g. https://oeis.org/A109224).
In some cases, I added known facts (with proofs) as lemmas.

For a few sequences it was very hard to prove the first few terms. In this case, I left them out, rather than using `sorry`.

Files that referred to the same sequence were combined into a single entry, with multiple conjectures, numbered as conjecture1, conjecture2, and so on.

### CODE REVIEW

File: FormalConjectures/OEIS/100434.lean [hunk 1]
```diff
@@ -0,0 +1,163 @@
...
+$(1+x)(3+x)/(1+6x^2+x^4)$. It satisfies the recurrence $a(n) = -6 a(n-2) - a(n-4)$
+for $n \ge 4$. -/
+def a : ℕ → ℤ
+  | 0 => 3
+  | 1 => 4
+  | 2 => -17
+  | 3 => -24
+  | n + 4 => -6 * a (n + 2) - a n
+
+-- (c(n)) starts with (1, -3, -7, 17) and satisfies the same recurrence as a
```
Comment (mo271) [inline FormalConjectures/OEIS/100434.lean]: let's use proper docstrings (with /--...-/ instead of just `--`)
here and elsewhere

File: FormalConjectures/OEIS/100434.lean [hunk 2]
```diff
@@ -0,0 +1,163 @@
...
+Then for all $n \ge 0$:
+1. $c(n) + d(n) = e(n) + f(n)$
+2. $e(n) + f(n) = g(n) + a(n)$
+3. $c(n) + d(n) = b(n)$
+-/
+@[category research open, AMS 11]
+theorem conjecture (n : ℕ) :
+    c n + d n = e n + f n ∧
+    e n + f n = g n + a n ∧
+    c n + d n = b n :=
```
Comment (mo271) [inline FormalConjectures/OEIS/100434.lean]: sounds like this should be split up into three separate conjectures?!
or are they trivially equivalent? In that case perhaps let's just add one of them?

File: FormalConjectures/OEIS/100474.lean [hunk 3]
```diff
@@ -0,0 +1,176 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A100474
+
+a(1) = 1; a(n) is the smallest integer such that a(n) + a(n-1) has the first n distinct prime factors not used before in this construction.
```
Comment (mo271) [inline FormalConjectures/OEIS/100474.lean]: please use latex in docstrings, here and everywhere

File: FormalConjectures/OEIS/100474.lean [hunk 4]
```diff
@@ -0,0 +1,176 @@
...
+  | 0 => 0
+  | 1 => 1
+  | n + 2 => (Finset.Ico (triangular (n + 1) - 1) (triangular (n + 2) - 1)).prod (Nat.nth Nat.Prime) - a (n + 1)
+
+@[category API, AMS 11]
+lemma nth_prime_five : Nat.nth Nat.Prime 5 = 13 := by
+  have h1 : Nat.count Nat.Prime 13 = 5 := by decide
+  have h2 : Nat.Prime 13 := by decide
+  have h3 := Nat.nth_count h2
+  rwa [h1] at h3
```
Comment (mo271) [inline FormalConjectures/OEIS/100474.lean]:
```suggestion
  have h1 : Nat.Prime 13 := by decide
  exact Nat.nth_count h1
```
should work (untested!) but also: let's `open Nat` here to avoid writing so much.
do this for analogously for all the cases?

We could also have a simp-proc here doing that?

File: FormalConjectures/OEIS/100475.lean [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+import Mathlib.Data.Nat.Prime.Nth
```
Comment (mo271) [inline FormalConjectures/OEIS/100475.lean]:
```suggestion
```

we basically never want imports besides `FormalConjecturesUtil`. Here and elsewhere (if there are other places..)

File: FormalConjectures/OEIS/100475.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+$N, P \in \mathbb{N}$, with $P>0$, such that for all $n \ge N$, $f(n+P) = f(n)$. -/
+def IsUltimatelyPeriodic (f : ℕ → ℕ) : Prop :=
+  ∃ N P, P > 0 ∧ ∀ n, n ≥ N → f (n + P) = f n
+
+/--
+Starting at other than a(n) = 1, does this sequence ever go into a loop?
+-/
+@[category research open, AMS 11]
+theorem conjecture (x : ℕ) (h : x ≠ 1) :
+    IsUltimatelyPeriodic (aStartAt x) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/100475.lean]: should use `answer(sorry)` because it is a question

File: FormalConjectures/OEIS/100478.lean [hunk 7]
```diff
@@ -0,0 +1,90 @@
...
+@[category test, AMS 11]
+theorem a_4 : a 4 = 1 := by rfl
+
+/-- 
+Starting with other values of a(1), a(2), a(3), a(4), a(5) what behaviors are possible? Does the sequence always stick at a single integer after some point, or can it go into a loop, or is there a third pattern? 
+-/
+@[category research open, AMS 11]
+theorem conjecture :
+  ∀ (v : Fin 5 → ℕ), (∀ i, v i > 0) →
+  ∃ N P : ℕ, P > 0 ∧ (∀ n, n ≥ N → a_general v (n + P) = a_general v n) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/100478.lean]: should use `answer(sorry)`? I think there are basically only two options: becomes periodic (possibly with period `0` or not).

File: FormalConjectures/OEIS/100800.lean [hunk 8]
```diff
@@ -0,0 +1,99 @@
...
+- [A100800](https://oeis.org/A100800)
+-/
+
+namespace OeisA100800
+
+open Nat Function Classical
+
+/-- The sum of the decimal digits of a natural number. -/
+def sum_digits (n : ℕ) : ℕ :=
+  (Nat.digits 10 n).sum
```
Comment (mo271) [inline FormalConjectures/OEIS/100800.lean]: I would inline and write `((10).digits n).sum`

File: FormalConjectures/OEIS/101406.lean
Comment (mo271) [inline FormalConjectures/OEIS/101406.lean:1]: I would delete this file: this is not a conjecture, but a known statment that a knwon conjecture implies something

File: FormalConjectures/OEIS/101779.lean [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+
+namespace OeisA101779
+
+open Nat Set
+open scoped Nat.Prime
+
+/--
+A101779: `is_a101779_k n k` is true if for all $i$ from $1$ to $n$, $i \cdot k + (i - 1)$ is prime.
+-/
+def is_a101779_k (n k : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/OEIS/101779.lean]: potentially `A_k` is more aligned with the naming convention

File: FormalConjectures/OEIS/102371.lean [hunk 10]
```diff
@@ -0,0 +1,77 @@
...
+@[category test, AMS 11]
+theorem a_4 : a 4 = 12 := by rfl
+
+@[category test, AMS 11]
+theorem a_5 : a 5 = 29 := by rfl
+
+/-- A105033: The number of positive integers $k$ such that $2^k$ divides $n-k$.
+This is defined as the cardinality of the set of such $k$. The set is finite
+for any fixed $n$. -/
+noncomputable def a105033 (n : ℕ) : ℕ :=
```
Comment (mo271) [inline FormalConjectures/OEIS/102371.lean]: in such situtaions when one sequence references another we could think about making it a rule to actually create a new file ther and include it here. of course there is the difficulty of potentially cycles, but as soon as we define the same sequence multiple times we should definitely start importing files instead. 
I'd guess that affects ~5% of the conjectures, i.e. around 1 in 20 references another oeis sequence in the formalulation of at least one of the mentioned conjectures..

File: FormalConjectures/OEIS/102722.lean [hunk 11]
```diff
@@ -0,0 +1,101 @@
...
+
+@[category test, AMS 11]
+theorem a_5 : a 5 = 1 := by eval_a
+
+/-- A102722 Conjecture: a(n) ~ (1-EulerGamma)n. -/
+@[category research open, AMS 11]
+theorem conjecture :
+    Asymptotics.IsEquivalent Filter.atTop
+      (fun n : ℕ => (a n : ℝ))
+      (fun n : ℕ => (1 - Real.eulerMascheroniConstant) * (n : ℝ)) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/102722.lean]: I think there is nicer notation for Asymptotics.IsEquivalent ?

`open locale Asymptotics` and then `u ~[l] v` where `l` is the `atTop` (after also `open Filter`)

Perhaps worth adding to AGENTS.md that if appropriate open scoped notation?!

File: FormalConjectures/OEIS/103311.lean
Comment (mo271) [inline FormalConjectures/OEIS/103311.lean:1]: I would prefer to drop this file here (since it is already abou to be added in #4384, and there we have a `formal proof using formal_conjectures` link, not just `formal_proof using lean4`!

File: FormalConjectures/OEIS/103151.lean [hunk 12]
```diff
@@ -0,0 +1,70 @@
...
+
+@[category test, AMS 11]
+theorem a_5 : a 5 = 1 := by decide
+
+/--
+Conjecture: all items for n>=4 are greater than or equal to 1. This is a stronger conjecture than the Goldbach conjecture.
+-/
+@[category research open, AMS 11]
+theorem conjecture (n : ℕ) (hn : n ≥ 4) : a n ≥ 1 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/OEIS/103151.lean]: I suppose we could import Goldbach here and prove that it is implied by `type_of% conjecture`. Perhaps a bit much, but perhaps a good sanity check.

File: FormalConjectures/OEIS/103425.lean [hunk 13]
```diff
@@ -0,0 +1,74 @@
...
+theorem a_3 : a 3 = 15 := by decide
+
+@[category test, AMS 11]
+theorem a_4 : a 4 = 41 := by decide
+
+def IsWeightedTribonacci (a b c : ℤ) (x : ℕ → ℤ) : Prop :=
+  ∀ n, x (n + 3) = a * x (n + 2) + b * x (n + 1) + c * x n
+
+/--
+"The current sequence contains primes, including 3, 5, 41, 21523361. Is there an (a, b, c) weighted tribonacci sequence with a, b, c relatively prime which is prime-free?"
```
Comment (mo271) [inline FormalConjectures/OEIS/103425.lean]: no quotation marks needed!

File: FormalConjectures/OEIS/105020.lean [hunk 14]
```diff
@@ -0,0 +1,95 @@
...
+*References:*
+- [A105020](https://oeis.org/A105020)
+-/
+
+namespace OeisA105020
+
+/--
+Triangular number $T_c = c(c+1)/2$.
+-/
+def triangularNumber (c : ℕ) : ℕ := c * (c + 1) / 2
```
Comment (mo271) [inline FormalConjectures/OEIS/105020.lean]: can't we just use `Nat.choose (c + 1) 2` or intro an abbrev for that here? 
It seems a bit wrong to have this as ad-hoc def?

File: FormalConjectures/OEIS/105210.lean [hunk 15]
```diff
@@ -0,0 +1,91 @@
...
+| n + 1 => next_term_fn (sequence_starting_at k n)
+termination_by n => n
+
+/-- The set of all terms generated by the sequence starting at $k$. -/
+def sequence_set (k : ℕ) : Set ℕ :=
+  { m | ∃ n : ℕ, 1 ≤ n ∧ sequence_starting_at k n = m }
+
+/--
+This suggests that there may be infinitely many different (non-merging) sequences obtained by choosing different starting values.
+-/
```
Comment (mo271) [inline FormalConjectures/OEIS/105210.lean:96]: I suppose having two non-merging test sequences here (of the 5 mentioned in the OEIS) might be good sanity checks.

File: FormalConjectures/OEIS/105720.lean [hunk 16]
```diff
@@ -0,0 +1,110 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+import Mathlib.Data.Nat.Prime.Nth
```
Comment (mo271) [inline FormalConjectures/OEIS/105720.lean]:
```suggestion
```

File: FormalConjectures/OEIS/105720.lean [hunk 17]
```diff
@@ -0,0 +1,110 @@
...
+  rw [a, if_neg (by decide)]
+  eval_a
+
+/--
+Terms are squares at only(?) three values of n = 3, 6, 4072:
+corresponding terms are 6^2, 13^2, and 15735^2.
+-/
+@[category research open, AMS 11]
+theorem conjecture :
+    ∀ n : ℕ, 0 < n → ((∃ m : ℕ, a n = m * m) ↔ (n = 3 ∨ n = 6 ∨ n = 4072)) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/105720.lean]: `∃ m : ℕ, a n = m * m` I think `IsSquare` exists in Mathlib.

File: FormalConjectures/OEIS/108211.lean [hunk 18]
```diff
@@ -0,0 +1,62 @@
...
+theorem a_5 : a 5 = 401 := by decide
+
+open Real
+
+/--
+Conjecture: a(n) = floor(1/(1/(4*n) - log(2) + 1/(n+1) + 1/(n+2) + ... + 1/(2*n))).
+-/
+@[category research open, AMS 11]
+theorem conjecture (n : ℕ) (hn : n > 0) :
+    (a n : ℝ) = (⌊ 1 / ((4 * n : ℝ)⁻¹ - log 2 + Finset.sum (Finset.Icc (n + 1) (2 * n)) fun k => (k : ℝ)⁻¹) ⌋ : ℝ) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/108211.lean]: usually we use sum notation for Finset.sum, I think it would look better here as well. (and elsewhere in this pull request...)
for `List.sum` it is ok to use `.sum` and not the Sigma symbol...

File: FormalConjectures/OEIS/108306.lean [hunk 19]
```diff
@@ -0,0 +1,104 @@
...
+-/
+
+namespace OeisA108306
+
+/-- The primary defining sequence `a`.
+`a n` is the $n$-th term of the expansion of $(3x+1)/(1-3x-3x^2)$, satisfying $a(0)=1, a(1)=6, a(n)=3a(n-1)+3a(n-2)$. -/
+def a : ℕ → ℕ
+  | 0 => 1
+  | 1 => 6
+  | k + 2 => 3 * a (k + 1) + 3 * a k
```
Comment (mo271) [inline FormalConjectures/OEIS/108306.lean:37]: I haven't checked but could image there is some API already for generating function in Mathlib that could be used here

File: FormalConjectures/OEIS/108569.lean [hunk 20]
```diff
@@ -0,0 +1,42 @@
...
+-/
+
+namespace OeisA108569
+
+/--
+The primary defining sequence `a`.
+`a n` is the $(n+1)$-th positive integer $k$ such that $\phi(k) = \phi(k + \phi(k))$.
+-/
+noncomputable def a (n : ℕ) : ℕ :=
+  n.nth (fun k ↦ 0 < k ∧ k.totient = (k + k.totient).totient)
```
Comment (mo271) [inline FormalConjectures/OEIS/108569.lean]: let's use φ notation here! after `open scoped...`

File: FormalConjectures/OEIS/108864.lean [hunk 21]
```diff
@@ -0,0 +1,57 @@
...
+
+namespace OeisA108864
+
+open Nat Finset Int
+
+/--
+The condition for a number $n$ to be in the sequence.
+It satisfies $0 < n$ and its perfect deficiency is $\le 10$, using the sum of divisors function $\sigma_1(n)$.
+-/
+def condition (n : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/OEIS/108864.lean]:
```suggestion
def A (n : ℕ) : Prop :=
```
as per naming convention

File: FormalConjectures/OEIS/108866.lean [hunk 22]
```diff
@@ -0,0 +1,73 @@
...
+    (-2 : Rat) / (n : Rat) + Finset.sum (Finset.range n) fun i : ℕ => (2 : Rat) ^ (i + 1) / ((i + 1) : Rat)
+  else
+    0
+
+/--
+Conjecture: for n > 3, numerator(-2/n + Sum_{k=1..n} 2^k/k) == 0 (mod n^2) if and only if n is prime.
+-/
+@[category research open, AMS 11]
+theorem conjecture {n : ℕ} (hn : n > 3) :
+    (rat_expression n).num ≡ 0 [ZMOD (n^2 : ℤ)] ↔ Nat.Prime n := by
```
Comment (mo271) [inline FormalConjectures/OEIS/108866.lean]: very generally `n.Prime` looks nicer than `Nat.Prime n` and similar -- occurs many times in this pr

File: FormalConjectures/OEIS/110835.lean [hunk 23]
```diff
@@ -0,0 +1,49 @@
...
+    ∀ p : ℕ, Nat.Prime p → ¬ (n * m ≤ p ∧ p ≤ n * (m + 1))
+  let S : Set ℕ := {m : ℕ | m > 0 ∧ is_prime_free_interval m}
+  sInf S
+
+/--
+Sierpinski's conjecture (1958) is precisely that a(n) >= n for all n.
+-/
+@[category research open, AMS 11]
+theorem conjecture : ∀ n > 0, a n ≥ n := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/OEIS/110835.lean]: double check that we don't already have that conjecture: it sounds like something which also has a wikipedia page...

File: FormalConjectures/OEIS/111114.lean [hunk 24]
```diff
@@ -0,0 +1,77 @@
...
+  have : Nat.nth Nat.Prime 4 = 11 := Nat.nth_prime_four_eq_eleven
+  unfold a
+  rw [this]
+  decide
+
+/--
+Conjecture: As n -> infinity, there are infinitely many n's such that a(n) is greater than a(n+1).
+-/
+@[category research open, AMS 11]
+theorem conjecture : ∀ N : ℕ, ∃ n : ℕ, n ≥ N ∧ n ≥ 2 ∧ a n > a (n + 1) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/111114.lean]:
```suggestion
theorem conjecture : ∃ᶠ n in atTop, a n > a (n + 1) := by
```
after `open Filter` might be more idiomatic (and closer to the informal text). (not tested..)

File: FormalConjectures/OEIS/112521.lean [hunk 25]
```diff
@@ -0,0 +1,80 @@
...
+theorem a_1 : a 1 = 1 := by decide
+
+@[category test, AMS 11]
+theorem a_2 : a 2 = 0 := by decide
+
+@[category test, AMS 11]
+theorem a_3 : a 3 = 6 := by decide
+
+@[category test, AMS 11]
+theorem a_4 : a 4 = 4 := by decide
```
Comment (mo271) [inline FormalConjectures/OEIS/112521.lean:59]: perhaps one more test here (unless it times out)
I feel like if the first 5 values are quite small (or 0 and 1) then one should add one more...

File: FormalConjectures/OEIS/112695.lean [hunk 26]
```diff
@@ -0,0 +1,80 @@
...
+  norm_num[a]
+  norm_num [collatz_steps_to_four]
+
+/--
+Conjecture: a(n) = number of iterations of the Collatz 3*x+1 map applied to n until the conjectured 4,2,1 sequence is reached.
+This is the statement that the value `a n` is well-defined for all positive integers $n$.
+-/
+@[category research open, AMS 11]
+theorem conjecture : ∀ (n : ℕ), 1 ≤ n → (collatz_steps_to_four n).Nonempty := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/OEIS/112695.lean]: this is just the Collatz conjecture, right? Let's remove the file in that case.

File: FormalConjectures/OEIS/113010.lean [hunk 27]
```diff
@@ -0,0 +1,61 @@
...
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Number of digits of n raised to the power of the sum of the digits of n
+
+A113010: {Number of digits of n} raised to the power of {the sum of the digits of n}.
+$$a(n) = (\text{number of digits of } n)^{\text{sum of the digits of } n}$$
```
Comment (mo271) [inline FormalConjectures/OEIS/113010.lean]: we typically don't want to repeat the definition of the sequence so often: if at all at most onece in the module docstrings (perhaps worth adding to README.md)

File: FormalConjectures/OEIS/113010.lean [hunk 28]
```diff
@@ -0,0 +1,61 @@
...
+
+namespace OeisA113010
+
+open Nat
+
+/-- 
+a n is the {Number of digits of n} raised to the power of {the sum of the digits of n}.
+-/
+def a (n : ℕ) : ℕ :=
+  (List.length (Nat.digits 10 n)) ^ (List.sum (Nat.digits 10 n))
```
Comment (mo271) [inline FormalConjectures/OEIS/113010.lean]: I'd prefer postfix notation for `.digits` (needs parens: `((10).digits n).length` should work?)

File: FormalConjectures/OEIS/113213.lean [hunk 29]
```diff
@@ -0,0 +1,63 @@
...
+
+@[category test, AMS 11]
+theorem a_5 : a 5 = 9 := by native_decide
+
+/--
+Conjecture: a(n) = O(n^3).
+-/
+@[category research open, AMS 11]
+theorem conjecture :
+    Asymptotics.IsBigO Filter.atTop (fun n : ℕ => (a n : ℝ)) (fun n : ℕ => (n ^ 3 : ℝ)) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/113213.lean]: there is also Big-O notation

File: FormalConjectures/OEIS/113250.lean [hunk 30]
```diff
@@ -0,0 +1,64 @@
...
+
+@[category test, AMS 11]
+theorem a_4 : a 4 = -256 := by rfl
+
+/--
+Conjecture: a(m, 2*n+1) is a perfect square for all m (see A113249).
+Specialized to m = 4, which is A113250.
+-/
+@[category research open, AMS 11]
+theorem conjecture : ∀ n : ℕ, ∃ k : ℤ, a (2 * n + 1) = k ^ 2 := by
```
Comment (mo271) [inline FormalConjectures/OEIS/113250.lean]: use `IsSquare`

File: FormalConjectures/OEIS/113252.lean [hunk 31]
```diff
@@ -0,0 +1,64 @@
...
+
+@[category test, AMS 11]
+theorem a_4 : a 4 = -3856 := by rfl
+
+/--
+Conjecture: a(m, 2*n+1) is a perfect square for all m, n (see A113249).
+Specialized for m=6, which is A113252.
+-/
+@[category research open, AMS 11]
+theorem conjecture : ∀ n : ℕ, ∃ k : ℤ, a (2 * n + 1) = k ^ 2 := by
```
Comment (mo271) [inline FormalConjectures/OEIS/113252.lean]:
```suggestion
theorem conjecture : ∀ n : ℕ, IsSquare a (2 * n + 1) := by
```
(not tested)

File: FormalConjectures/OEIS/113255.lean [hunk 32]
```diff
@@ -0,0 +1,64 @@
...
+
+@[category test, AMS 11]
+theorem a_4 : a 4 = -26581 := by rfl
+
+/--
+Conjecture: a(m, 2*n+1) is a perfect square for all m, n (see A113249).
+Specialized for m=9, which is A113255.
+-/
+@[category research open, AMS 11]
+theorem conjecture : ∀ n : ℕ, ∃ k : ℤ, a (2 * n + 1) = k ^ 2 := by
```
Comment (mo271) [inline FormalConjectures/OEIS/113255.lean]: IsSquare again

File: FormalConjectures/OEIS/113257.lean [hunk 33]
```diff
@@ -0,0 +1,65 @@
...
+theorem conjecture1 :
+    answer(sorry) = a (sInf {n : ℕ | 2 < n ∧ Nat.Prime (a n)}) := by
+  sorry
+
+/--
+What is the first square value after 1?
+-/
+@[category research open, AMS 11]
+theorem conjecture2 :
+    answer(sorry) = a (sInf {n : ℕ | 1 < n ∧ ∃ k, a n = k ^ 2}) := by
```
Comment (mo271) [inline FormalConjectures/OEIS/113257.lean]: `IsSquare`

File: FormalConjectures/OEIS/113258.lean [hunk 34]
```diff
@@ -0,0 +1,58 @@
...
+
+namespace OeisA113258
+
+/--
+The primary defining sequence `a`.
+a(n) is the ascending descending base exponent transform of factorials.
+$$a(n) = \sum_{i = 1}^n (i!) ^ {(n-i+1)!}$$
+-/
+def a (n : ℕ) : ℕ :=
+  Finset.sum (Finset.range n) fun i => (Nat.factorial (i + 1)) ^ (Nat.factorial (n - i))
```
Comment (mo271) [inline FormalConjectures/OEIS/113258.lean]: there is also `!` notation, I believe

File: FormalConjectures/OEIS/113609.lean [hunk 35]
```diff
@@ -0,0 +1,58 @@
...
+*References:*
+- [A113609](https://oeis.org/A113609)
+-/
+
+namespace OeisA113609
+
+/--
+A number $n$ is an "OEIS prime power" (for the context of A113609's definition) if $n=1$ or $n$ is a standard prime power.
+-/
+def is_oeis_prime_power (n : ℕ) : Prop := n = 1 ∨ IsPrimePow n
```
Comment (mo271) [inline FormalConjectures/OEIS/113609.lean]:
```suggestion
def IsOeisPrimePower (n : ℕ) : Prop := n = 1 ∨ IsPrimePow n
```
I think this is the naming convention here?

File: FormalConjectures/OEIS/113609.lean [hunk 36]
```diff
@@ -0,0 +1,58 @@
...
+
+/--
+The primary defining sequence `a`.
+a(n) is the number of prime powers q<=n such that also q+2 is a prime power.
+$$a(n) = \operatorname{card} \{q \in \mathbb{N} \mid 1 \le q \le n \land P(q) \land P(q+2) \}$$
+-/
+def a (n : ℕ) : ℕ :=
+  Finset.card $ (Finset.range (n + 1)).filter fun q =>
+    is_oeis_prime_power q ∧ is_oeis_prime_power (q + 2) ∧ q ≥ 1
+
```
Comment (mo271) [inline FormalConjectures/OEIS/113609.lean:61]: let's add term theorems?

File: FormalConjectures/OEIS/114137.lean [hunk 37]
```diff
@@ -0,0 +1,69 @@
...
+/--
+The primary defining sequence `a`.
+a(n) is the difference between first odd semiprime > 2^n and 2^n.
+$$a(n) = \min \{s \mid s > 2^n \text{ and } s \text{ is an odd semiprime}\} - 2^n$$
+-/
+noncomputable def a (n : ℕ) : ℕ :=
+  let m := 2^n
+  let S : Set ℕ := { s | s > m ∧ is_odd_semiprime s }
+  sInf S - m
+
```
Comment (mo271) [inline FormalConjectures/OEIS/114137.lean:38]: term theorems?

File: FormalConjectures/OEIS/114137.lean [hunk 38]
```diff
@@ -0,0 +1,69 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Difference between first odd semiprime > 2^n and 2^n
+
+Difference between first odd semiprime > 2^n and 2^n.
```
Comment (mo271) [inline FormalConjectures/OEIS/114137.lean]: this duplictaion is not needed!

File: FormalConjectures/OEIS/11545.lean [hunk 39]
```diff
@@ -0,0 +1,76 @@
...
+-/
+@[category research open, AMS 11]
+theorem conjecture1 : ∀ n, ¬ IsSquare (a n) := by
+  sorry
+
+/--
+Number of collisions occurring in a system consisting of an infinitely massive, rigid wall at the origin, a ball with mass m stationary at position x1 > 0, and a ball with mass (10^2n)m at position x2 > x1 and rolling toward the origin, assuming perfectly elastic collisions and no friction.
+
+Strictly speaking, this property, which is equivalent to the statement that the interval (m*Pi, Pi/arctan(1/m)) does not contain an integer for all m = 10^n, is not known to be true for sure. In other words, we do not know for certain that A332045 does not contain a power of 10.
+-/
```
Comment (mo271) [inline FormalConjectures/OEIS/11545.lean:80]: I thought this is a theorem not a conjecture?!

File: FormalConjectures/OEIS/11545.lean [hunk 40]
```diff
@@ -0,0 +1,76 @@
...
+@[category research open, AMS 11]
+theorem conjecture2 :
+    ∀ n : ℕ, ¬ ∃ (k : ℤ),
+      (Real.pi * (10 : ℝ) ^ n.cast < k.cast) ∧
+      (k.cast < Real.pi / Real.arctan (1 / (10 : ℝ) ^ n.cast)) :=
+  by sorry
```
Comment (mo271) [inline FormalConjectures/OEIS/11545.lean]:
```suggestion
      (k.cast < Real.pi / Real.arctan (1 / (10 : ℝ) ^ n.cast)) := by 
  sorry
```
`by` on same line `sorry` in the next with two spaces (but perhaps this statement is delted (see other comment)

**Review by mo271 — COMMENTED** [review]
Thanks! Great work!
I left lots of comments most of them nits, some of them good to add to our OEIS/README.md

File: FormalConjectures/OEIS/100434.lean (hunk 1 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100434.lean]: Done.

File: FormalConjectures/OEIS/100434.lean (hunk 2 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100434.lean]: I wasn't able to show they are equivalent, so I created 3 different conjectures.

File: FormalConjectures/OEIS/100474.lean (hunk 3 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100474.lean]: Done.

File: FormalConjectures/OEIS/100474.lean (hunk 4 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100474.lean]: Fixed as suggested.

File: FormalConjectures/OEIS/100475.lean (hunk 5 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100475.lean]: Done.

File: FormalConjectures/OEIS/100475.lean (hunk 6 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100475.lean]: Done.

File: FormalConjectures/OEIS/100478.lean (hunk 7 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100478.lean]: Done.

File: FormalConjectures/OEIS/100800.lean (hunk 8 above)
Comment (codrut3) [reply FormalConjectures/OEIS/100800.lean]: Done.

File: FormalConjectures/OEIS/101406.lean
Comment (codrut3) [reply FormalConjectures/OEIS/101406.lean:1]: Done, removed.

File: FormalConjectures/OEIS/101779.lean (hunk 9 above)
Comment (codrut3) [reply FormalConjectures/OEIS/101779.lean]: Done.

File: FormalConjectures/OEIS/102371.lean (hunk 10 above)
Comment (codrut3) [reply FormalConjectures/OEIS/102371.lean]: Good point! I added 105033.lean. I also realised the definition was wrong: A105033 is not the number of positive integers $k$ such that $2^k$ divides $n-k$. This is fixed now.

File: FormalConjectures/OEIS/102722.lean (hunk 11 above)
Comment (codrut3) [reply FormalConjectures/OEIS/102722.lean]: Done.

File: FormalConjectures/OEIS/103311.lean
Comment (codrut3) [reply FormalConjectures/OEIS/103311.lean:1]: Done, deleted.

File: FormalConjectures/OEIS/103151.lean (hunk 12 above)
Comment (codrut3) [reply FormalConjectures/OEIS/103151.lean]: Both Gemini and ChatGPT can only show that the conjecture implies the weak Goldbach conjecture (any odd number greater than 5 can be expressed as the sum of three odd primes). This is obviously true if a n >= 1, so I didn't see a point in adding the proof. It's not clear if the statement on the OEIS meant the strong Goldbach conjecture.

File: FormalConjectures/OEIS/103425.lean (hunk 13 above)
Comment (codrut3) [reply FormalConjectures/OEIS/103425.lean]: Done.

File: FormalConjectures/OEIS/105020.lean (hunk 14 above)
Comment (codrut3) [reply FormalConjectures/OEIS/105020.lean]: Done.

File: FormalConjectures/OEIS/105210.lean (hunk 15 above)
Comment (codrut3) [reply FormalConjectures/OEIS/105210.lean:96]: I added a conjecture about the 5 starting values mentioned in the OEIS. It's with sorry, since it's not known to be true for sure.

File: FormalConjectures/OEIS/105720.lean (hunk 16 above)
Comment (codrut3) [reply FormalConjectures/OEIS/105720.lean]: Done.

File: FormalConjectures/OEIS/105720.lean (hunk 17 above)
Comment (codrut3) [reply FormalConjectures/OEIS/105720.lean]: Done.

File: FormalConjectures/OEIS/108211.lean (hunk 18 above)
Comment (codrut3) [reply FormalConjectures/OEIS/108211.lean]: Done.

File: FormalConjectures/OEIS/108306.lean (hunk 19 above)
Comment (codrut3) [reply FormalConjectures/OEIS/108306.lean:37]: There is, but I understood from Gemini it would no longer be possible to compute the first few terms directly. So I would have to add the proof of the recurrence relation, which is quite long.

File: FormalConjectures/OEIS/108569.lean (hunk 20 above)
Comment (codrut3) [reply FormalConjectures/OEIS/108569.lean]: Done.

File: FormalConjectures/OEIS/108864.lean (hunk 21 above)
Comment (codrut3) [reply FormalConjectures/OEIS/108864.lean]: Done.

File: FormalConjectures/OEIS/108866.lean (hunk 22 above)
Comment (codrut3) [reply FormalConjectures/OEIS/108866.lean]: Done. I used .Prime in most places, except if the expression was complex.

File: FormalConjectures/OEIS/110835.lean (hunk 23 above)
Comment (codrut3) [reply FormalConjectures/OEIS/110835.lean]: I checked, but it's not in the repo already. There is only a conjecture about Sierpinski numbers.

File: FormalConjectures/OEIS/111114.lean (hunk 24 above)
Comment (codrut3) [reply FormalConjectures/OEIS/111114.lean]: Done, changed as you suggested.

File: FormalConjectures/OEIS/112521.lean (hunk 25 above)
Comment (codrut3) [reply FormalConjectures/OEIS/112521.lean:59]: Done, added a 5 too.

File: FormalConjectures/OEIS/112695.lean (hunk 26 above)
Comment (codrut3) [reply FormalConjectures/OEIS/112695.lean]: I removed it.

File: FormalConjectures/OEIS/113010.lean (hunk 27 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113010.lean]: I left only the title.

File: FormalConjectures/OEIS/113010.lean (hunk 28 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113010.lean]: Done.

File: FormalConjectures/OEIS/113213.lean (hunk 29 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113213.lean]: Done.

File: FormalConjectures/OEIS/113250.lean (hunk 30 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113250.lean]: Done.

File: FormalConjectures/OEIS/113252.lean (hunk 31 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113252.lean]: Done.

File: FormalConjectures/OEIS/113255.lean (hunk 32 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113255.lean]: Done.

File: FormalConjectures/OEIS/113257.lean (hunk 33 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113257.lean]: Done.

File: FormalConjectures/OEIS/113258.lean (hunk 34 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113258.lean]: Done.

File: FormalConjectures/OEIS/113609.lean (hunk 35 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113609.lean]: Done.

File: FormalConjectures/OEIS/113609.lean (hunk 36 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113609.lean:61]: Done. I don't know why the agent didn't add them the first time.

File: FormalConjectures/OEIS/114137.lean (hunk 38 above)
Comment (codrut3) [reply FormalConjectures/OEIS/114137.lean]: Done.

File: FormalConjectures/OEIS/11545.lean (hunk 40 above)
Comment (codrut3) [reply FormalConjectures/OEIS/11545.lean]: Done.

File: FormalConjectures/OEIS/11545.lean (hunk 39 above)
Comment (codrut3) [reply FormalConjectures/OEIS/11545.lean:80]: This is very interesting! It turns out it is actually a conjecture. See pages 15-16 in https://www.maths.tcd.ie/%7Elebed/Galperin.%20Playing%20pool%20with%20pi.pdf. We should give it a try! :):)

File: FormalConjectures/OEIS/114137.lean (hunk 37 above)
Comment (codrut3) [reply FormalConjectures/OEIS/114137.lean:38]: Done.

File: FormalConjectures/OEIS/113609.lean (hunk 36 above)
Comment (mo271) [reply FormalConjectures/OEIS/113609.lean:61]: Initially the agent had proofs for all term theorems, but in the second run when formalising the conjectures, in the prompting I said  it is ok to leave them out again (in the hope to make it waste less `lake build`ing time (and also less tokens) on those)

File: FormalConjectures/OEIS/113271.lean [hunk 41]
```diff
@@ -0,0 +1,61 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Ascending descending base exponent transform of 2^n
+
+Ascending descending base exponent transform of 2^n.
```
Comment (mo271) [inline FormalConjectures/OEIS/113271.lean]: can you do another pass of 
- making sure that docstrings use latex markdown for math
 - avoid duplications where the title is the same as a sentence mentioned just below

File: FormalConjectures/OEIS/1146.lean [hunk 42]
```diff
@@ -0,0 +1,93 @@
...
+/-!
+# a(n) = 2^(2^n)
+
+$a(n) = 2^{2^n}$.
+
+*References:*
+- [A001146](https://oeis.org/A001146)
+-/
+
+namespace OeisA001146
```
Comment (mo271) [inline FormalConjectures/OEIS/1146.lean]:
```suggestion
namespace OeisA1146
```
no leading zeros for those namespaces (we should potentially lint against it?!) 
I think it is already mentioned in the REAMDE.md?

File: FormalConjectures/OEIS/103662.lean [hunk 43]
```diff
@@ -0,0 +1,93 @@
...
+
+namespace OeisA103662
+
+open Nat List Set
+
+/--
+A helper predicate: $b^n$ is a power with base $>1$ whose decimal representation does not contain the digit 0.
+We assume $n$ is the exponent, $n \ge 1$.
+-/
+def is_valid_zeroless_power (n b : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/OEIS/103662.lean]:
```suggestion
def IsValidZerolessPower (n b : ℕ) : Prop :=
```
according to naming convenction

File: FormalConjectures/OEIS/114137.lean [hunk 44]
```diff
@@ -0,0 +1,121 @@
...
+- [A114137](https://oeis.org/A114137)
+-/
+
+namespace OeisA114137
+
+/--
+A natural number $n$ is a semiprime if it has exactly two prime factors counting multiplicity, $\Omega(n)=2$.
+In Lean, `n.primeFactorsList.length` computes $\Omega(n)$.
+-/
+def is_semiprime (n : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/OEIS/114137.lean]:
```suggestion
def IsSemiprime (n : ℕ) : Prop :=
```

according to naming convention!
Also: please move to `FormalConjecturesForMathlib`, we already have uses of this in other files. 
```
/-- A natural number is a semiprime if it is the product of two prime numbers. -/
def IsSemiprime (n : ℕ) : Prop :=
  ∃ p q : ℕ, p.Prime ∧ q.Prime ∧ n = p * q
```
in `100474.lean` for instance

File: FormalConjectures/OEIS/114137.lean [hunk 45]
```diff
@@ -0,0 +1,121 @@
...
+  n > 1 ∧ n.primeFactorsList.length = 2
+
+/--
+An odd semiprime is a semiprime that is odd.
+-/
+def is_odd_semiprime (n : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/OEIS/114137.lean]:
```suggestion
def IsOddSemiprime (n : ℕ) : Prop :=
```

File: FormalConjectures/OEIS/108129.lean [hunk 46]
```diff
@@ -0,0 +1,84 @@
...
+@[category test, AMS 11]
+theorem a_3 : a 3 = 2 := by
+  norm_num[a ·]
+  use if a:_ then(dif_pos a▸mod_cast(PNat.find_eq_iff _).2 ((.symm @?_)))else a.elim<|by exists@2
+  exists(fun a s=>match a with|1=>by decide)
+
+@[category test, AMS 11]
+theorem a_4 : a 4 = 1 := by
+  delta a
+  norm_num[Exists.intro (1 : ℕ+),PNat.find_eq_iff]
```
Comment (mo271) [inline FormalConjectures/OEIS/108129.lean]: Those are really quite ugly `AlphaProof` proof, perhaps we can make them more pretty/hence easier to maintain?
Aso fine to leave and we can fix them during the next bump...

**Review by mo271 — COMMENTED** [review]
general remarks: 
 - I think many of the proofs could easily avoid `native_decide`  by just using `rfl` or `decide` instead without making it much slower. Perhaps one could tell an agent to look at each file with this in mind?
- naming convention for `Prop` valued functions: `IsPropery` not `is_property`, please fix all instances of this (I manually flag a few, but not all (I think)).
 - missing/severely lacking term theorems: 6 with zero, 3 with only 1-2 (108569, 108864, 109227, 110475, 110566, 110835, 117027, 110854, 114216) I think in many cases is is not hard to add them, even with proof. 

Otherwise it looks great!

File: FormalConjectures/OEIS/113271.lean (hunk 41 above)
Comment (codrut3) [reply FormalConjectures/OEIS/113271.lean]: Done. I went through all files, rewrote the title and checked latex.

File: FormalConjectures/OEIS/1146.lean (hunk 42 above)
Comment (codrut3) [reply FormalConjectures/OEIS/1146.lean]: It is, but the agent managed to ignore it... Fixed.

File: FormalConjectures/OEIS/103662.lean (hunk 43 above)
Comment (codrut3) [reply FormalConjectures/OEIS/103662.lean]: I formatted all names according to the Lean 4 style.

File: FormalConjectures/OEIS/114137.lean (hunk 44 above)
Comment (codrut3) [reply FormalConjectures/OEIS/114137.lean]: Done. I moved it to FormalConjecturesForMathlib/NumberTheory. I put it in the `Nat` namespace, is that ok?

File: FormalConjectures/OEIS/114137.lean (hunk 45 above)
Comment (codrut3) [reply FormalConjectures/OEIS/114137.lean]: Moved this one too.

File: FormalConjectures/OEIS/108129.lean (hunk 46 above)
Comment (codrut3) [reply FormalConjectures/OEIS/108129.lean]: The proofs were rewritten by AI and are shorter now.

**Comment by codrut3** [comment]
> general remarks:
> 
> * I think many of the proofs could easily avoid `native_decide`  by just using `rfl` or `decide` instead without making it much slower. Perhaps one could tell an agent to look at each file with this in mind?
> * naming convention for `Prop` valued functions: `IsPropery` not `is_property`, please fix all instances of this (I manually flag a few, but not all (I think)).
> * missing/severely lacking term theorems: 6 with zero, 3 with only 1-2 (108569, 108864, 109227, 110475, 110566, 110835, 117027, 110854, 114216) I think in many cases is is not hard to add them, even with proof.
> 
> Otherwise it looks great!

Thank you! I was able to replace some instances of `native_decide` with `rfl` or `decide`.
I also fixed the naming.

I added more term theorems to the files that had at most 2. 

Please have another look!

File: FormalConjectures/OEIS/114137.lean (hunk 44 above)
Comment (mo271) [reply FormalConjectures/OEIS/114137.lean]: Yeah, if `Prime` is there why not. (I guess `Semiprime` would be analogous, why is `Prime` not `IsPrime`?
But whatever, status quo looks good to me

**Review by mo271 — APPROVED** [review]
Thanks, LGTM now

One last nit: many files have lines which go over the 100 character line length limit (which is ok if those line contains links).

Perhaps it is not to hard to fix?

File: FormalConjecturesForMathlib/NumberTheory/Semiprime.lean [hunk 47]
```diff
@@ -0,0 +1,55 @@
...
+-/
+
+namespace Nat
+
+/--
+A natural number `n` is a *semiprime* if it has exactly two prime factors counting multiplicity,
+that is, $\Omega(n) = 2$.
+-/
+def IsSemiprime (n : ℕ) : Prop :=
+  n > 1 ∧ n.primeFactorsList.length = 2
```
Comment (mo271) [inline FormalConjecturesForMathlib/NumberTheory/Semiprime.lean:39]: perhaps you could also remove the other copies of `IsSemiprime` we have and make them to use this one (potentially changing the definition here if it makes proofs easier)

Fine to do in a follow up of course

**Review by mo271 — COMMENTED** [review]
also: what is up with the failing check? Perhaps mergning main will fix it?

File: FormalConjecturesForMathlib/NumberTheory/Semiprime.lean (hunk 47 above)
Comment (mo271) [reply FormalConjecturesForMathlib/NumberTheory/Semiprime.lean:39]: let's do it in a follow up

**Comment by codrut3** [comment]
> Thanks, LGTM now
> 
> One last nit: many files have lines which go over the 100 character line length limit (which is ok if those line contains links).
> 
> Perhaps it is not to hard to fix?

I fixed the line lengths.

**Comment by codrut3** [comment]
> also: what is up with the failing check? Perhaps mergning main will fix it?

I merged main. Whenever there was a conflict, I took the incoming version at HEAD, and discarded my changes.
